US04616014
5-Methyl-3-(1-methylhydrazino)-6-phenyl-1,2,4-triazine (2.9 g) was dissolved in ethanol (50 ml) containing anhydrous hydrogen chloride and hydrogenated over 5% palladium on carbon (0.33 g) under atmospheric pressure at room temperature. After the theoretical amount of hydrogen gas was absorbed, the catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was neutralized with an aqueous solution of sodium carbonate and extracted with ethyl acetate. The extract was dried over sodium sulfate and concentrated under reduced pressure. The residual solid was recrystallized from ethanol to give colorless crystals of 5-methyl-3-(1-methylhydrazino)-6-phenyl-2,5-dihydro-1,2,4-triazine, mp 139.5°~141° C.

reactant | 5-Methyl-3-(1-methylhydrazino)-6-phenyl-1,2,4-triazine | 2.9 g | CC=1N=C(N=NC1C1=CC=CC=C1)N(N)C | C11H13N5
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.33 g | [Pd] | Pd
product | 5-methyl-3-(1-methylhydrazino)-6-phenyl-2,5-dihydro-1,2,4-triazine | CC1N=C(NN=C1C1=CC=CC=C1)N(N)C | C11H15N5
